Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left-sided facial numbness and blurred vision
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
Mr. ___ is a ___ yo man with history of HTN, HLD who 
presents with left face numbness, for which neurology is 
consulted. 

Mr. ___ had just walked into his home this afternoon at 
1330 when he had sudden onset of blurry vision to the left, with 
possibly some blurriness also on the right, but much less severe 
on the right (if present at all on that side) as well as left 
face numbness. He briefly felt lightheaded at symptom onset. He 
did not try to cover one eye while the blurry vision was 
present. These lasted two minutes, during which he was able to 
walk and use his arms without difficulty. 

After that two minutes, he had a small area of numbness just 
below the left lower lip which persisted.  

He presented to ___, where ___ was unremarkable. He 
was given ASA 325 and transferred to ___.  
 
Past Medical History:
HTN
HLD
GERD
 
Social History:
___
Family History:
Father with stroke in his ___, CEA, CAD
Mother with ___ Disease
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================

Vitals:  T: 97.4 HR: 52 BP: 142/87 RR: 16 SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with normal grammar and
syntax. No paraphasic errors. Naming intact to low frequency
words. Comprehension intact to complex, cross-body commands. 

-Cranial Nerves: PERRL 2.5->2. VFF to confrontation. EOMI with 4
beats of end-gaze nystagmus on the right and 2 beats on the 
left.
Facial sensation intact to light touch, though just below the
left lower lip patient is equivocal about whether or not the
sensation is 100% normal or just very close to 100%. L facial
droop.  Hearing intact to conversation. Palate elevates
symmetrically. ___ strength in trapezii bilaterally. Tongue
protrudes in midline and moves briskly to each side. No
dysarthria. 

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  5    ___   ___  5   5    5  5                
R  5    ___   ___  5   5    5  5                   

-DTRs:
   ___ Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   2                    -
 R  2  2    2    2   2                    -
Plantar response was flexor bilaterally.

-Sensory:  Intact to LT, temp throughout. Proprioception intact
to medium excursions of the great toe BLE.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Cerebellar check without rebound. 

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Romberg with sway without stepoff.

=======================
DISCHARGE PHYSICAL EXAM
=======================

 Vitals: T: 97.6 BP: 135/84 HR: 52 RR: 18 SpO2: 98% RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative, able to provide adequately
detailed history. Language is fluent with intact comprehension.
Able to follow both midline and appendicular commands. 

-Cranial Nerves: PERRL. EOMI without nystagmus. Facial sensation
intact to light touch in V1-V3. Face symmetric at rest and with
activation. Hearing intact to FR bilaterally. Palate elevates
symmetrically. ___ strength in trapezii bilaterally. Tongue
protrudes in midline.

-Motor: No pronator drift bilaterally. No adventitious 
movements,
such as tremor, noted.
   Delt Bic Tri WrE FE IP Quad Ham TA Gastroc
 L  5    ___  ___    5  5     5   
 R  5    ___  ___    5  5     5   

-Sensory: Intact to LT throughout. No extinction to DSS.

-DTRs: ___.

-Coordination: No action tremor or dysmetria on FNF bilaterally.
 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 05:30AM BLOOD WBC-4.7 RBC-4.55* Hgb-13.9 Hct-42.3 
MCV-93 MCH-30.5 MCHC-32.9 RDW-13.0 RDWSD-44.1 Plt ___
___ 05:30AM BLOOD ___ PTT-28.0 ___
___ 05:30AM BLOOD Glucose-97 UreaN-12 Creat-0.9 Na-141 
K-4.9 Cl-103 HCO3-26 AnGap-12
___ 05:30AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.1
___ 05:30AM BLOOD ALT-24 AST-30 AlkPhos-66 TotBili-0.4
___ 05:30AM BLOOD %HbA1c-5.4 eAG-108
___ 03:52AM BLOOD Triglyc-95 HDL-58 CHOL/HD-2.7 LDLcalc-79

___ 03:52AM BLOOD VitB12-467
___ 03:52AM BLOOD TSH-7.9*
___ 03:52AM BLOOD T3-99 Free T4-0.9*
___ 03:52AM BLOOD PEP-PND
___ 03:52AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 08:30AM URINE Color-Yellow Appear-Clear Sp ___
___ 08:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 08:30AM URINE U-PEP-PND
___ 08:30AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICROBIOLOGY

___ 3:52 am SEROLOGY/BLOOD
                            **FINAL REPORT ___
   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive.

___ 3:52 am Blood (LYME)
   Lyme IgG (Pending): 
   Lyme IgM (Pending): 

___ 8:30 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING

CHEST (PA & LAT)
No acute cardiopulmonary abnormality or mediastinal widening.

CTA HEAD W&W/O C & RECONS; CTA NECK W&W/OC & RECONS CTA HEAD 
(Preliminary):
The vessels of the circle of ___, the carotid and vertebral 
arteries and their principal branches appear normal without 
stenosis, occlusion, or 
aneurysm formation. The dural venous sinuses are patent. 
  
Final read pending completion of 3D reformats. 

MR HEAD W/O CONTRAST
1. No evidence of infarction or hemorrhage. 
2. Nonspecific scattered subcortical white matter FLAIR 
hyperintensities 
suggest chronic small vessel ischemic disease. 
  
TTE (Complete)
The left atrium is elongated. No thrombus/mass is seen in the 
body of the left atrium. No atrial septal defect is seen by 2D 
or color Doppler. Left ventricular wall thicknesses are normal. 
The left ventricular cavity size is normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). No masses or thrombi are 
seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. No masses or vegetations are 
seen on the aortic valve. The mitral valve appears structurally 
normal with trivial mitral regurgitation. No mass or vegetation 
is seen on the mitral valve. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion.   

 
Brief Hospital Course:
Mr. ___ is a ___ man with HTN and HLD who presented 
as a transfer from ___ for blurred vision and left-sided 
facial numbness. On arrival at ___, his symptoms had mostly 
subsided except for some residual minimal lower lip numbness on 
the left side. A CTA head/neck and MRI were unremarkable except 
for evidence of chronic small vessel ischemic disease. TTE 
showed no evidence of thrombus and no PFO/ASD. Taken together, 
this episode is concerning for a TIA. While the etiology is 
unclear, the patient has multiple risk factors for both 
cardioembolic and small vessel strokes. A small vessel etiology 
is more likely, given his hypertension and imaging evidence of 
chronic small vessel ischemic disease. 

# Neurology
For his TIA, his home losartan was held, and his blood pressure 
was allowed to autoregulate. His home losartan was resumed at 
discharge.
# Cardiopulmonary
He was monitored by telemetry while inpatient, which showed 
normal sinus rhythm throughout. TTE results noted above.

# Infectious/Toxicology/Metabolic
UA, CXR, LFTs, serum tox were negative. 

# Endocrine
He was found to have mild hypothyroidism, with TSH 7.9, T3 99, 
and fT4 0.9. Recommend outpatient follow-up. HbA1c was 5.4.

# Hospital Issues/Prophylaxis
No swallow concerns, and so patient was on a regular diet. DVT 
prophylaxis consisted of pneumoboots and subcutaneous heparin. 
Bowel regimen consisted of Colace.

TRANSITIONAL ISSUES
1. Please follow up SPEP/UPEP, Lyme.
2. Consider repeat imaging to follow up fourth ventricle choroid 
calcification vs. stable small hemorrhage seen on CT.
3. Consider follow-up sleep study due to history of snoring 
concerning for OSA.
4. Follow up repeat thyroid function panel as outpatient.
 
Medications on Admission:
1. Losartan Potassium 50 mg PO DAILY 
2. Atorvastatin 20 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 (One) tablet(s) by mouth once a day Disp 
#*28 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 (One) tablet(s) by mouth once a day 
Disp #*28 Tablet Refills:*0 
3.  Losartan Potassium 50 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack (TIA)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of blurred vision and 
left-sided facial numbness resulting from a TRANSIENT ISCHEMIC 
ATTACK (TIA), a condition where a blood vessel providing oxygen 
and nutrients to the brain is TEMPORARILY blocked by a clot. The 
brain controls and directs all the other parts of your body, so 
when the brain is deprived of its blood supply, a variety of 
symptoms can result. 

TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- High blood pressure
- High cholesterol
- Possible obstructive sleep apnea

We are changing your medications as follows:
START Aspirin 81mg daily
INCREASE Atorvastatin to 40mg daily 

Please take your home medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.

Please also discuss obtaining a sleep study with your primary 
care provider due to concern for obstructive sleep apnea (OSA); 
the ___ sleep lab can be reached at ___.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Sincerely,  

Your ___ Neurology Team  
 
Followup Instructions:
___